US07001913B1
(b) 1-tert-Butoxycarbonyl-3-ethoxycarbonyl-4-heptylamino-1,2,5,6-tetrahydropyridine
A solution of 1-tert-butoxycarbonyl-3-ethoxycarbonyl-piperidin-4-one (prepared from 3-ethoxycarbonyl-piperidin-4-one and di-tert-butyl-dicarbonate in dichloromethane and triethylamine) (8.5 g) and heptylamine (3.61 g) in toluene (100 ml) was heated under reflux in a Dean and Stark apparatus for 18 hours and then evaporated to dryness to give an oil.

reactant | 1-tert-butoxycarbonyl-3-ethoxycarbonyl-piperidin-4-one | 8.5 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OCC | C13H21NO5
reactant | heptylamine | 3.61 g | C(CCCCCC)N | C7H17N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-tert-Butoxycarbonyl-3-ethoxycarbonyl-4-heptylamino-1,2,5,6-tetrahydropyridine | C(C)(C)(C)OC(=O)N1CC(=C(CC1)NCCCCCCC)C(=O)OCC | C20H36N2O4
